US04036857
3-(3-Hydroxy-3-methyl-1-octenyl)-6a,7,10,10a-tetrahydro- 6,6,9-trimethyl-6H-dibenzo[b,d]pyran-1-ol
A solution of 1.0 g (0.0028 mole) of 3-(3-oxo-1-octenyl)-6a,7,10,10a-tetrahydro-6,6,9-trimethyl-6H-dibenzo[b,d]pyran-1-ol in diethyl ether was added dropwise to a solution of methyl magnesium bromide in ether prepared by bubbling methyl bromide into 0.78 g (0.032 mole) of magnesium. After the addition was complete, the mixture was refluxed for 3 hours and then decomposed by the careful addition of a mixture of methanol/diethyl ethr followed by dilute acid. The ethereal layer was separated and washed consecutively with water, 5% sodium bicarbonate and again water. It was dried and evaporated to leave 0.95 g of a gum which was chromatographed on magnesium silicate and eluted with graded mixtures of ether/petroleum ether. This furnished 0.28 g of 3-(3-hydroxy-3-methyl-1-octenyl)-6a,7,10,10a-tetrahydro-6,6,9-trimethyl-6H-dibenzo[b,d]pyran-1-ol as a resinous material. The infrared and nuclear magnetic resonance spectra were consistent with the structure of the desired hydroxy compound.

reactant | 3-(3-oxo-1-octenyl)-6a,7,10,10a-tetrahydro-6,6,9-trimethyl-6H-dibenzo[b,d]pyran-1-ol | 0.0028 mole, 1.0 g | O=C(C=CC=1C=C(C2=C(OC(C3C2CC(=CC3)C)(C)C)C1)O)CCCCC | C24H32O3
reactant | methyl magnesium bromide | C[Mg]Br
reactant | methyl bromide | CBr | CH3Br
reactant | magnesium | 0.032 mole, 0.78 g | [Mg] | Mg
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 3-(3-Hydroxy-3-methyl-1-octenyl)-6a,7,10,10a-tetrahydro- 6,6,9-trimethyl-6H-dibenzo[b,d]pyran-1-ol | 0.95 g | OC(C=CC=1C=C(C2=C(OC(C3C2CC(=CC3)C)(C)C)C1)O)(CCCCC)C | C25H36O3
